US04007169
50 g rifamycin S were dissolved in 200 ml dimethyl formamide and added with 9 g sodium azide. After 36 hours at a temperature of +5° C, the reaction mixture was treated as in Example 3, to obtain 13 g 3-amino-rifamycin S identical to that described in Example 3.

reactant | rifamycin S | 50 g | CC1=C(C2=C3C4=C1O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]([C@H](/C=C/C=C(\C(=O)NC(=CC3=O)C2=O)/C)C)O)C)O)C)OC(=O)C)C)OC)C)O | C37H45NO12
reactant | sodium azide | 9 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
product | 3-amino-rifamycin S | 13 g | C[C@H]1/C=C/C=C(\C(=O)NC2=C(C(=O)C3=C4C(=C(C(=C3C2=O)O)C)O[C@@](C4=O)(O/C=C/[C@@H]([C@H]([C@H]([C@@H]([C@@H]([C@@H]([C@H]1O)C)O)C)OC(=O)C)C)OC)C)N)/C | C37H46N2O12
